US04362738
1-(4-Amino-3-bromo-5-diethylaminomethyl-benzoyloxy)-2-(2-acetoxy-benzoyloxy)-ethane
This compound was prepared from 2-acetoxybenzoyl chloride and 1-[4-amino-3-bromo-5-diethylaminomethyl-benzoyloxy]-2-hydroxy-ethane analogous to Example 5. Oil.

reactant | 2-acetoxybenzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
reactant | 1-[4-amino-3-bromo-5-diethylaminomethyl-benzoyloxy]-2-hydroxy-ethane | NC1=C(C=C(C(=O)OCCO)C=C1CN(CC)CC)Br | C14H21BrN2O3
product | 1-(4-Amino-3-bromo-5-diethylaminomethyl-benzoyloxy)-2-(2-acetoxy-benzoyloxy)-ethane | NC1=C(C=C(C(=O)OCCOC(C2=C(C=CC=C2)OC(C)=O)=O)C=C1CN(CC)CC)Br | C23H27BrN2O6
